US04062934
3-(2-Amino-ethylcarbamyl)-5-nitro-benzoic acid (200 g; 0.79 mole) is dissolved in water (1000 ml) and concentrated hydrochloric acid (75 ml). Palladium-over-charcoal (20 g) is added thereto, and the material is hydrogenated in an autoclave during 2 hours, under a hydrogen pressure of 3-4 kg. The resulting material is filtered and evaporated to dryness in vacuo, to give a solid which is taken up into ethanol (500 ml). The resulting precipitate is suction filtered, washed with ethanol and dried, to give 130 g (Yield = 74%) 3-(2-amino-ethylcarbamyl)-5-amino-benzoic acid the purity of which is controlled by:

reactant | 3-(2-Amino-ethylcarbamyl)-5-nitro-benzoic acid | 0.79 mole, 200 g | NCCNC(=O)C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C10H11N3O5
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 1000 ml | O | H2O
product | 3-(2-amino-ethylcarbamyl)-5-amino-benzoic acid | 130 g, Yield = 74% | NCCNC(=O)C=1C=C(C(=O)O)C=C(C1)N | C10H13N3O3
